US04886814
N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared by analogy to Example 16 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4yl)ethanamine in methanol with 1N sodium hydroxide solution. After the mixture has been neutralised with 1N hydrochloric acid it is evaporated to dryness, treated with 10 ml of ethanol, and the inorganic residues are removed by filtration. The ethanol phase is diluted with 60 ml of methylene chloride and again filtered. The mother liquor is evaporated to dryness, and the residue is triturated with ether and filtered off with suction.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CCO | C20H25F3N2O5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-N-(2-hydroxyethyl)-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(O)COC1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)C(F)(F)F)O)CCO | C19H23F3N2O5S
